US08048897B2
(2) Synthesis of 1-Benzyloxy-2-(4-bromobenzyl)benzene
In a nitrogen stream, triethylsilane (1.84 mL, 11.55 mmol) and a boron trifluoride-diethylether complex (1.33 mL, 10.5 mmol) were added to a solution of (2-benzyloxyphenyl)-(4-bromophenyl)methanol (3.88 g, 10.5 mmol) in acetonitrile (19.5 mL) at −40° C. and the mixture was stirred at the same temperature for 0.5 hour. A saturated potassium carbonate aqueous solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (2.86 g, 77%).

reactant | triethylsilane | 11.55 mmol, 1.84 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (2-benzyloxyphenyl)-(4-bromophenyl)methanol | 10.5 mmol, 3.88 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)Br | C20H17BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 19.5 mL | C(C)#N | C2H3N
product | 1-Benzyloxy-2-(4-bromobenzyl)benzene | 2.86 g, 77% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC1=CC=C(C=C1)Br | C20H17BrO
